US07439395B2
3.00 g (17.75 mmol) of 1,3-dimethyl-2,2-dichloroimidazolidine and 2.38 g (17.75 mmol) of sodium methylsulfate are mixed with 20 ml of dry acetonitrile. The reaction mixture is stirred for 5 hours at room temperature, and the precipitate NaCl is filtered off. The solvent is distilled off, and the residue is dried for 1 hour under a reduced pressure of 7 Pa and at 50° C., giving 4.09 g of 1,3-dimethyl-2-chloroimidazolidinium methylsulfate as a viscous material, corresponding to a yield of 94.2%.

reactant | 1,3-dimethyl-2,2-dichloroimidazolidine | 17.75 mmol, 3.00 g | CN1C(N(CC1)C)(Cl)Cl | C5H10Cl2N2
reactant | sodium methylsulfate | 17.75 mmol, 2.38 g | COS(=O)(=O)[O-].[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1,3-dimethyl-2-chloroimidazolidinium methylsulfate | 4.09 g, yield of 94.2% | COS(=O)(=O)[O-].C[NH+]1C(N(CC1)C)Cl | InChI=1S/C5H11ClN2.CH4O4S/c1-7-3-4-8(2)5(7)6;1-5-6(2,3)4/h5H,3-4H2,1-2H3;1H3,(H,2,3,4)
